US08835419B2
To a mixture of (3-bromo-4-chlorophenoxy)-t-butyldimethylsilane (15.0 g, 46.8 mmol) and (1R)-1-(2,4-dichlorophenyl)ethanamine (9.7 g, 51.5 mmol) in anhydrous toluene (250 mL) were added palladium(II) acetate (Pd(OAc)2) (0.42 g, 1.9 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (BINAP) (1.74 g, 2.80 mmol), and sodium t-butoxide (NaO-tBu) (6.3 g, 65.52 mmol). The resulting mixture was heated at 110° C. under nitrogen for 3 h. After cooling to room temperature, the suspension was filtered through a plug of Celite, and washed with ethyl acetate (EtOAc) (100 mL). The filtrate was concentrated in vacuo. The resulting residue was diluted with deionized water, and extracted with ethyl acetate (500 mL). The organic layer was washed with brine, dried (Na2SO4), and concentrated in vacuo. The crude residue was purified by flash chromatography (SiO2, 0-15% ethyl acetate in hexanes) to afford (R)-5-(t-butyldimethylsilyloxy)-2-chloro-N-(1-(2,4-dichlorophenyl)ethyl)aniline as a viscous oil (18.5 g, 42.9 mmol, 92%). 1H NMR (400 MHz, CDCl3) δ 7.42 (d, J=1.6 Hz, 1H), 7.32 (d, J=8.8 Hz, 1H), 7.19 (dd, J=1.6, 8.4 Hz, 1H), 7.08 (d, J=8.4 Hz, 1H), 6.13 (dd, J=2.2, 8.4 Hz, 1H), 5.71 (d, J=2.4 Hz, 1H), 4.87-4.84 (m, 1H), 4.67 (d, J=4.8 Hz, 1H), 1.58 (d, J=6.8 Hz, 3H), 0.98 (s, 9H), 0.02 (s, 3H), 0.01 (s, 3H).

reactant | (3-bromo-4-chlorophenoxy)-t-butyldimethylsilane | 46.8 mmol, 15.0 g | BrC=1C=C(O[Si](C)(C)C(C)(C)C)C=CC1Cl | C12H18BrClOSi
reactant | (1R)-1-(2,4-dichlorophenyl)ethanamine | 51.5 mmol, 9.7 g | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N | C8H9Cl2N
reactant | sodium t-butoxide | 65.52 mmol, 6.3 g | CC(C)([O-])C.[Na+]
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 1.9 mmol, 0.42 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 2.80 mmol, 1.74 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | (R)-5-(t-butyldimethylsilyloxy)-2-chloro-N-(1-(2,4-dichlorophenyl)ethyl)aniline | 42.9 mmol, 18.5 g, 92% | [Si](C)(C)(C(C)(C)C)OC=1C=CC(=C(N[C@H](C)C2=C(C=C(C=C2)Cl)Cl)C1)Cl | C20H26Cl3NOSi
